US08937091B2
2-(1-imidazolylethyl)aminoethyl-3-pyridylketone 8690
3-acetylpyridine (6.5 mg), histamine (6 mg), and paraformaldehyde (2 mg) were reacted in dioxane (0.1 ml) at 150° C. for 2 hours.

reactant | 3-acetylpyridine | 6.5 mg | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | histamine | 6 mg | NCCC1=CNC=N1 | C5H9N3
reactant | paraformaldehyde | 2 mg | C=O | CH2O
solvent | dioxane | 0.1 ml | O1CCOCC1 | C4H8O2
product | 2-(1-imidazolylethyl)aminoethyl-3-pyridylketone | N1C(=NC=C1)C(C)NCCC(=O)C=1C=NC=CC1 | C13H16N4O
